US06506903B1
a reaction of diethyl (3-bromo-2-oxo-propyl)acetamide malonate with thioformamide to give diethyl (4-thiazolylmethyl)acetamide malonate and

reactant | diethyl (3-bromo-2-oxo-propyl)acetamide malonate | C(CC(=O)O)(=O)O.C(C)C(C(=O)N)(CC(CBr)=O)CC
reactant | thioformamide | C(=S)N | CH3NS
product | diethyl (4-thiazolylmethyl)acetamide malonate | C(CC(=O)O)(=O)O.C(C)C(C(=O)N)(CC=1N=CSC1)CC | InChI=1S/C10H16N2OS.C3H4O4/c1-3-10(4-2,9(11)13)5-8-6-14-7-12-8;4-2(5)1-3(6)7/h6-7H,3-5H2,1-2H3,(H2,11,13);1H2,(H,4,5)(H,6,7)
